US08058300B2
Step 4: 1-{4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopentanecarboxylic acid:
1-{4′-[3-methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopentanecarboxylic acid ethyl ester (0.060 g, 0.11 mmol) in 1,4-dioxane (2 mL) was treated with 1N aqueous LiOH (1 mL), and the reaction was stirred at 60° C. overnight. Acidic work-up, followed by silica gel chromatography (0-50% EtOAc in hexanes) gave the title compound.

reactant | 1-{4′-[3-methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopentanecarboxylic acid ethyl ester | 0.11 mmol, 0.060 g | C(C)OC(=O)C1(CCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=CC=CC=C1 | C33H34N2O5
reactant | LiOH | 1N, 1 mL | [Li+].[OH-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-{4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopentanecarboxylic acid | CC1=NOC(=C1NC(=O)O[C@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CCCC1)C(=O)O | C31H30N2O5
